US07670512B2
Synthesis of N-{4-Amino-2,5-bis[(2-cyanoethyl)sulfanyl]-phenyl}-trans-4-nitrocinnamoyl formamide
2,5-Bis[(cyanoethyl)thio]-1,4-phenylenediamine (2.50 g, 9.00 mmol) was admixed with 15 mL of NMP in a 250 mL 3-necked round-bottom flask with nitrogen purge. The resultant mixture was cooled to around 0° C. in an ice bath with stirring, followed by the addition of trans-4-nitrocinnamoyl chloride (2.00 g, 9.45 mmol, dissolved in 13 mL NMP) drop by drop. Thereafter, the ice bath was removed, and 400 mL of water was poured into the flask to result in the formation of a solid precipitate, which was collected by filtration. The thus-obtained solid was added into 400 mL of water and heated to 60° C. for 10 min. After filtration, the collected solid was admixed with 600 mL of methanol, followed by filtration. An orange solid was obtained and dried in a vacuum oven at 80° C., giving the title compound in a yield of 78.13%.

reactant | 2,5-Bis[(cyanoethyl)thio]-1,4-phenylenediamine | 9.00 mmol, 2.50 g | C(#N)CCSC1=C(C=C(C(=C1)N)SCCC#N)N | C12H14N4S2
reactant | trans-4-nitrocinnamoyl chloride | 9.45 mmol, 13 mL, 2.00 g | [N+](=O)([O-])C1=CC=C(/C=C/C(=O)Cl)C=C1 | C9H6ClNO3
reactant | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | N-{4-Amino-2,5-bis[(2-cyanoethyl)sulfanyl]-phenyl}-trans-4-nitrocinnamoyl formamide | yield of 78.13% | NC1=CC(=C(C=C1SCCC#N)N(C=O)C(\C=C\C1=CC=C(C=C1)[N+](=O)[O-])=O)SCCC#N | C22H19N5O4S2
